US05866612
A solution of 10.5 g (78.8 mmol) of 1,2,3,4-tetra-hydroisoquinoline in 55 ml of concentrated H2SO4 at 0° C. was treated with 10 g (98.9 mmol, 1.25 equiv) and warmed to 25° C. After stirring for 48 h, ice was added followed by NH4OH. The aqueous layer was extracted with CH2Cl2, and the combined organics were dried (MgSO4), filtered, and concentrated to a volume of 100 ml. The solution was treated with 80 ml of 1M HCl in Et2O followed by Et2O. A solid was collected and recrystallized from H2O/acetone to give 6.0 g (36%) of 7-nitro-1,2,3,4-tetrahydroisoquinolineoHCl. A solution of 1.0 g (4.7 mmol) of 7-nitro-1,2,3,4-tetrahydroisoquinolineoHCl in 58 ml of THF was treated with 29 ml of saturated NaHCO3 followed by 1.02 g (4.7 mmol, 1 equiv) of BOC2O. After stirring overnight, the reaction was diluted with H2O and extracted with Et2O. The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. Pufication by flash silica gel column chromatography eluting with hexanes/Et2O (2:1) provided 1.08 g (83%) of N-tert-butoxycarbonyl-7-nitro-1,2,3,4-tetra hydroisoquinoline. A solution of 1.08 g (3.88 mmol) of the above nitroaromatic in 50 ml of EtOAc was treated with 100 mg of 10% palladium on carbon and placed on a Parr hydrogenator under H2 until gas consumption ceased. The reaction was filtered through a pad of silica gel washing with EtOAc, and the filtrate was concentrated in vacuo to give 964 mg of an intermediate aniline that was used immediately in the next reaction. The title compound was prepared as in example 21 using 0.964 g (3.88 mmol) of the above aniline and intermediate C. After EtOH removal, 10 ml of 1,4-dioxane was added followed by 0.75 ml of 5.9M HBr in AcOH. Afer stirring 5 min Et2O was added, and a solid was collected. Recrystallization from MeoH/EtOAc provided 530 mg (39%) of title compound as a white solid: mp undefined; 1H NMR (D2O, 300 MHz) δ 7.29 (d, 1 H, J=8.4 Hz), 7.12 (d, 1 H, J=8.4 Hz), 7.06 (br s, 1 H), 4.27 (s, 2 H), 3.41 (t, 2 H, J=6.6 Hz), 3.02 (t, 2 H, J=6.6 Hz), 2.26 (s, 3 H).

reactant | 1,2,3,4-tetra-hydroisoquinoline | 78.8 mmol, 10.5 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | NH4OH | [NH4+].[OH-]
reactant | NaHCO3 | 29 ml | C(=O)(O)[O-].[Na+]
reactant | BOC2O | 4.7 mmol, 1.02 g, 1 equiv | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | H2O | O | H2O
solvent | H2SO4 | 55 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 58 ml | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-7-nitro-1,2,3,4-tetra hydroisoquinoline | 1.08 g, 83% | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
